US04495195
Still following the procedure of Example 1, 6.8 g. of methyl 1-methyl-3-(4-trifluoromethylphenyl)pyrazole-5-carboxylate dissolved in 100 ml. of methanol was heated for about one hour with a solution of 1 g. of sodium hydroxide in 75 ml. of water. The reaction mixture was cooled and then acidified with 1N aqueous hydrochloric acid. The free acid, being insoluble in the acidic solution, separated and was collected by filtration. Recrystallization from benzene yielded 1-methyl-3-(4-trifluoromethylphenyl)pyrazole-5-carboxylic acid melting at 230°-2° C.

reactant | methyl 1-methyl-3-(4-trifluoromethylphenyl)pyrazole-5-carboxylate | CN1N=C(C=C1C(=O)OC)C1=CC=C(C=C1)C(F)(F)F | C13H11F3N2O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | 1-methyl-3-(4-trifluoromethylphenyl)pyrazole-5-carboxylic acid | CN1N=C(C=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O2
